US08207373B2
Stage 1: (2-Nitro-phenyl)-(4-trifluoromethoxy-phenyl)-amine
To 374 μL of 2-fluoro-nitrobenzene in 2 mL of DMSO are added 962 μL of 4-trifluoromethoxyaniline (2 equivalents) and 636 mg of potassium tert-butanolate (1.6 equivalents). The whole is heated to 110° C. for 3 hrs. Once the reaction is completed, the medium taken up in a minimum of dichloromethane is hydrolyzed and then extracted. The organic phase is successively washed with water and then with a saturated solution of sodium chloride, dried on magnesium sulfate, filtered and concentrated under reduced pressure. A silica gel chromatography of the residue (cyclohexane and then cyclohexane/ethyl acetate: 99/1) allows 575 mg of the desired product to be isolated.

reactant | 2-fluoro-nitrobenzene | 374 μL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-trifluoromethoxyaniline | 962 μL, 2 equivalents | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | potassium tert-butanolate | 636 mg, 1.6 equivalents | C(C)(C)(C)[O-].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (2-Nitro-phenyl)-(4-trifluoromethoxy-phenyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(C=C1)OC(F)(F)F | C13H9F3N2O3
